US07414136B2
Into a 2 L round bottomed flask, zinc powder (847 g) and methanol (4,080 mL) were charged and dispersed with stirring. A methanol (2,720 mL) solution of 2,6-dichloro-5-fluoronicotinic acid (1,700 g) was slowly added dropwise thereto, and then, acetic acid (535 g) was further added dropwise thereto. The internal temperature was raised to 35° C., followed by stirring at that temperature for 5 hours. After confirming that the starting material became at most 3% by the HPLC analysis, the residue of zinc powder was removed by filtration. Methanol was distilled off under reduced pressure, and then, water (3,000 mL) was added, whereby crystals precipitated. Then, the crude reaction product containing the crystals was transferred to a 20 L reactor by means of water (3,750 mL). The internal temperature was heated to at least 50° C., and then, 6 mol/L hydrochloric acid (1,960 g) was dropwise added thereto. After stirring for 3 hours as it was, the mixture was gradually cooled to room temperature, and a precipitated solid was collected by filtration and washed with water. The obtained crystals were dried under reduced pressure (60° C., 30.7 Pa, 12 hours) to obtain a salt of 2-chloro-5-fluoronicotinic acid (1,000 g).

reactant | methanol | 4,080 mL | CO | CH4O
reactant | methanol | 2,720 mL | CO | CH4O
reactant | 2,6-dichloro-5-fluoronicotinic acid | 1,700 g | ClC1=C(C(=O)O)C=C(C(=N1)Cl)F | C6H2Cl2FNO2
reactant | acetic acid | 535 g | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | 6 mol/L, 1,960 g | Cl | ClH
catalyst | zinc | 847 g | [Zn] | Zn
solvent | water | 3,750 mL | O | H2O
product | 2-chloro-5-fluoronicotinic acid | 1,000 g | ClC1=C(C(=O)O)C=C(C=N1)F | C6H3ClFNO2
